US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, 1-(4-bromo-phenyl)-2-hydroxy-ethylamine and DIEA to give 2-[1-(4-bromo-phenyl)-2-hydroxy-ethylamino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 455 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | 1-(4-bromo-phenyl)-2-hydroxy-ethylamine | BrC1=CC=C(C=C1)C(CO)N | C8H10BrNO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-[1-(4-bromo-phenyl)-2-hydroxy-ethylamino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | BrC1=CC=C(C=C1)C(CO)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C21H16BrN3O2S
